datasets/10k__Tet_Int.csv
SMILES Labelled
"[OH:10]C([H])C(C)/C(C)=C([H])\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C([H])=C(C)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])[H])C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])C.[Cl-:21] 10=20;20,21=21"
"C[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[NH][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[NH][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C1=CC=CC=C1)[H]>>CCN([C:20]1(OC(C(C([O:21]1)CC)CC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[NH:10]([H])C(CC)C(C)C([H])C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C([H])C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CCN([C:20](=[O:10])OCCCCCC)CC.[O-:21]C>>CCN([C:20]([O-:10])(OCCCCCC)[O:21]C)CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C)[S]1 10=20;20,21=21"
"CC[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])C>>CC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)C)[H] 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C([H])C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C([H])C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[O]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)CC>>CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])CC 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]CC.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)[H])C.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)[H])C 21=20;20,10=10"
"CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C)C)C)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])C)C)C)C1=CC=CC=C1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1[H])OC)C1=CC=CC=C1)[H]>>C(C([O-:21])[H])(C(O[C:20](=[O:10])OC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O]C.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21]C)([S]CC)[S][H].[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([S]CC)[S][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C(CC)C(CC)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](CC)[O]1 10=20;20,21=21"
